US09278967B2
Under a nitrogen atmosphere, to a refluxing suspension of sodium (2.401 g, 104 mmol) in toluene (20 mL) at a temperature of about 115° C. was added dropwise over 30 min bicyclo[3.3.1]nonan-3-one oxime (QS, 1.60 g, 10.44 mmol) in 2-propanol (8 mL). The mixture was stirred at reflux for 2 hr. After addition of the oxime solution is completed, 2-propanol (3 mL) was added dropwise. The reaction mixture was heated to reflux until all of the Na was consumed followed by cooling to a temperature of about 25° C. The reaction mixture was then quenched by the addition of H2O (20 mL). The organic layer was separated, and washed twice with 1N HCl (30 mL each). The acidic solution was made alkaline by the addition of 2N NaOH (50 mL), and extracted thrice with Et2O (50 mL each). The organic layers were combined and washed with saturated NaCl (50 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to give of bicyclo[3.3.1]non-3-ylamine QA. This compound was used in the next step without purification in 2-propanol solution.

reactant | sodium | 104 mmol, 2.401 g | [Na] | Na
reactant | bicyclo[3.3.1]nonan-3-one oxime | 10.44 mmol, 1.60 g | C12CC(CC(CCC1)C2)=NO | C9H15NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | 2-propanol | 8 mL | CC(C)O | C3H8O
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
product | bicyclo[3.3.1]non-3-ylamine | C12CC(CC(CCC1)C2)N | C9H17N
